US08217027B2
A solution of (5R,7R)-7-(4-hydroxy-phenyl)-3-oxa-1-aza-spiro[4.4]nonan-2-one (75 mg, 0.32 mmol), octanol (55.6 μL, 0.35 mmol) and resin bound triphenylphosphine (343 mg, 2 mmol/g, 0.70 mmol) in THF (4.0 mL) was cooled to about 0° C. and di-tert-butyl azodicarboxylate (80.5 mg, 0.35 mmol) was added dropwise. The reaction was allowed to warm up to room temperature for about 3 hours, then the resin was filtered off and washed with DCM (10 mL). The filtrates were combined and concentrated. The crude product was purified on silica gel using a gradient of 30% to 60% EtOAc in heptane. Pure fractions were combined and concentrated to yield 67.0 mg (61%) of (5R,7R)-7-(4-octyloxy-phenyl)-3-oxa-1-aza-spiro[4.4]nonan-2-one as a white solid.

reactant | (5R,7R)-7-(4-hydroxy-phenyl)-3-oxa-1-aza-spiro[4.4]nonan-2-one | 0.32 mmol, 75 mg | OC1=CC=C(C=C1)[C@H]1C[C@@]2(COC(N2)=O)CC1 | C13H15NO3
reactant | octanol | 0.35 mmol, 55.6 μL | C(CCCCCCC)O | C8H18O
reactant | triphenylphosphine | 0.70 mmol, 343 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl azodicarboxylate | 0.35 mmol, 80.5 mg | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | THF | 4.0 mL | C1CCOC1 | C4H8O
product | (5R,7R)-7-(4-octyloxy-phenyl)-3-oxa-1-aza-spiro[4.4]nonan-2-one | 67.0 mg, 61% | C(CCCCCCC)OC1=CC=C(C=C1)[C@H]1C[C@@]2(COC(N2)=O)CC1 | C21H31NO3
